US09056859B2
To a solution of (2,5-difluoro-4-nitrophenyl)acetic acid (440 mg, 2.03 mmol) in 20 ml of EtOAc was added HOAc (121 mg, 2.03 mmol) and 200 mg of Pd/C was stirred at room temperature under H2 atmosphere for 3 hours. The reaction mixture was filtrated and concentrated to give (4-amino-2,5-difluorophenyl)acetic acid.

reactant | (2,5-difluoro-4-nitrophenyl)acetic acid | 2.03 mmol, 440 mg | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)CC(=O)O | C8H5F2NO4
reactant | HOAc | 2.03 mmol, 121 mg | CC(=O)O | C2H4O2
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (4-amino-2,5-difluorophenyl)acetic acid | NC1=CC(=C(C=C1F)CC(=O)O)F | C8H7F2NO2
